US06608062B1
To a solution of 6-phenyl-[1,2,4]triazin-5-ylamine (1.1 g, 6.4 mmol) and triethylamine (891 μl, 6.4 mmol) in anhydrous 1,2-dichloroethane (75 ml) under an atmosphere of nitrogen was added dropwise 2-chloro-2-phenylacetyl chloride (1.01 ml, 6.4 mmol). The reaction mixture was stirred at 0° C. for 90 min, then triethylamine (891 μl, 6.4 mmol) was added, and the resulting mixture heated under reflux for 30 min. The cooled reaction mixture was partitioned between CH2Cl2 (100 ml) and water (100 ml). The organic layer was separated, dried over MgSO4 and evaporated in vacuo. The solid residue was triturated with a 1:1 mixture of CH2Cl2 and MeOH (10 ml), filtered and dried to give 780 mg (2.7 mmol, 42%) of 3,8-diphenylimidazo[1,2-d][1,2,4]triazin-2-ol as a pale yellow solid. δH (360 MHz; DMSO-d6) 7.41 (1H, t, J 7.3 and 7.2, aromatic), 7.50-7.63 (5H, m, aromatics), 7.82 (2H, d, J 7.8, aromatics), 8.57 (2H, m, aromatics), 9.65 (1H, s, imidazotriazine H5), 11.72 (1H, br s, OH); m/z (ES+) 289 (M++H, 100%).

reactant | 6-phenyl-[1,2,4]triazin-5-ylamine | 6.4 mmol, 1.1 g | C1(=CC=CC=C1)C1=C(N=CN=N1)N | C9H8N4
reactant | triethylamine | 6.4 mmol, 891 μl | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-2-phenylacetyl chloride | 6.4 mmol, 1.01 ml | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | triethylamine | 6.4 mmol, 891 μl | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
product | 3,8-diphenylimidazo[1,2-d][1,2,4]triazin-2-ol | 2.7 mmol, 780 mg, 42% | C1(=CC=CC=C1)C1=C(N=C2N1C=NN=C2C2=CC=CC=C2)O | C17H12N4O
